US06706744B2
4-[3-[1(S)-(4-Chlorophenyl)ethyl]1-(4-cyclohexylphenyl)ureidomethyl]benzoic acid methyl ester
A 2 l reaction flask equipped with mechanical stirring was charged with N-chloro-carbamoyl-4-[(4-cyclohexylphenylamino)methyl]benzoic acid methyl ester (94 g, 0.244 mol), NMP (1.0 l) and triethylamine (68 ml, 0.487 mol). To the clear solution was added drop wise (S)-1-(4-chlorophenyl)ethylamine (38.0 g, 0.244 mol), keeping the internal reaction temperature below 30° C. Stirring was continued for 2 hours, then the reaction mixture was partitioned between water (1.0 l) and ethyl acetate (1.0 l). After extensive mixing, the organic layer was separated, and washed with a 5% aqueous solution of citric acid (500 ml), and saturated ammonium chloride (500 ml), before drying with anhydrous sodium sulfate. Solvent was removed, and the residual oil was evaporated once from acetonitrile. This product was sufficiently pure for further synthesis. Yield: 103 g (84%).

reactant | N-chloro-carbamoyl-4-[(4-cyclohexylphenylamino)methyl]benzoic acid methyl ester | 0.244 mol, 94 g | COC(C1=C(C=C(C=C1)CNC1=CC=C(C=C1)C1CCCCC1)C(NCl)=O)=O | C22H25ClN2O3
reactant | triethylamine | 0.487 mol, 68 ml | C(C)N(CC)CC | C6H15N
reactant | (S)-1-(4-chlorophenyl)ethylamine | 0.244 mol, 38.0 g | ClC1=CC=C(C=C1)[C@H](C)N | C8H10ClN
reactant | NMP | 1.0 l | CN1CCCC1=O | C5H9NO
product | 4-[3-[1(S)-(4-Chlorophenyl)ethyl]1-(4-cyclohexylphenyl)ureidomethyl]benzoic acid methyl ester | COC(C1=CC=C(C=C1)CN(C(=O)N[C@@H](C)C1=CC=C(C=C1)Cl)C1=CC=C(C=C1)C1CCCCC1)=O | C30H33ClN2O3
